US04925591
In a mixed solvent of methanol and tetrahydrofuran was dissolved 5.17 g of 4-hydroxy-3-chlorobenzoic acid, and a solution of 2.4 g of sodium hydroxide in 5 ml of water was added to the solution. Then, 10 ml of benzyl chloride was added to the mixture and the liquid was refluxed for 4 hours. Then, 1.2 g of sodium hydroxide was further added to the mixture, the liquid was refluxed for 2 hours, and the reaction liquid was put into 1N hydrochloric acid, and the precipitate was recovered by filtration, washed with water, methanol and n-pentane in succession and recrystallized from a mixed solvent of benzene and tetrahydrofuran to obtain 2.7 g of 4-benzyloxy-3-chlorobenzoic acid. Then, 15 g of thionyl chloride was added to 2.7 g of this 4-benzyloxy-3-chlorobenzoic acid, and the mixture was reacted under reflux and reacted for 3 hours. Unreacted thionyl chloride was removed by distillation under reduced pressure. Thus, 4-benzyloxy-3-chlorobenzoic acid chloride was quantitatively obtained.

reactant | 4-hydroxy-3-chlorobenzoic acid | 5.17 g | OC1=C(C=C(C(=O)O)C=C1)Cl | C7H5ClO3
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | benzyl chloride | 10 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 4-benzyloxy-3-chlorobenzoic acid | 2.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)Cl | C14H11ClO3
